US04946843
A mixture of 16.7 parts of 2-[(4-methyl-1-piperazinyl)methyl]-3-[2-(phenylmethoxy)ethyl]-3H-imidazo[4,5-b]pyridine and 200 parts of methanol was hydrogenated at normal pressure and at room temperature with 3 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2,2'-oxybispropane. The product was filtered off and dried, yielding 5.84 parts (46.1%) of 2-[(4-methyl-1-piperazinyl)methyl]-3H-imidazo[4,5-b]pyridine-3-ethanol; mp. 89.5° C. (compound 129).

reactant | 2-[(4-methyl-1-piperazinyl)methyl]-3-[2-(phenylmethoxy)ethyl]-3H-imidazo[4,5-b]pyridine | CN1CCN(CC1)CC1=NC=2C(=NC=CC2)N1CCOCC1=CC=CC=C1 | C21H27N5O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2-[(4-methyl-1-piperazinyl)methyl]-3H-imidazo[4,5-b]pyridine-3-ethanol | 46.1% | CN1CCN(CC1)CC1=NC=2C(=NC=CC2)N1CCO | C14H21N5O
